US07951810B2
Step b: [(3aR,4R,6R,6aS)-6-(6-Chloro-9H-purin-9-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]methanol
(1R,2S,3R,5R)-3-[(5-Amino-6-chloropyrimidin-4-yl)amino]-5-(hydroxymethyl)cyclopentane-1,2-diol (335.0 mg, 0.001219 mol) and p-toluenesulfonic acid monohydrate (280 mg, 0.0015 mol) was dissolved in N,N-dimethylformamide (5.00 mL) and trimethoxymethane (10.0 mL, 0.0914 mol) under an atmosphere of nitrogen at 25° C. The reaction was stirred overnight, concentrated in vacuo, diluted with water and concentrated in vacuo again. The residue was then twice concentrated in vacuo from toluene. The residue was taken up in acetone (15.0 mL, 0.204 mol) and 2,2-dimethoxypropane (5.0 mL, 0.041 mol) and stirred for 2 hours, until complete by LCMS. The mixture was basified with sodium bicarbonate solution (20 mL), and concentrated in vacuo to remove organic solvent. The aqueous residue was extracted with DCM (4×20 mL) and the combined organic phase was concentrated in vacuo. Flash chromatography (0-100% EtOAc/DCM) gave the desired product (210 mg, 53%)

reactant | (1R,2S,3R,5R)-3-[(5-Amino-6-chloropyrimidin-4-yl)amino]-5-(hydroxymethyl)cyclopentane-1,2-diol | 0.001219 mol, 335.0 mg | NC=1C(=NC=NC1Cl)N[C@H]1[C@@H]([C@@H]([C@H](C1)CO)O)O | C10H15ClN4O3
reactant | p-toluenesulfonic acid monohydrate | 0.0015 mol, 280 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | trimethoxymethane | 0.0914 mol, 10.0 mL | COC(OC)OC | C4H10O3
reactant | acetone | 0.204 mol, 15.0 mL | CC(=O)C | C3H6O
reactant | 2,2-dimethoxypropane | 0.041 mol, 5.0 mL | COC(C)(C)OC | C5H12O2
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 5.00 mL | CN(C=O)C | C3H7NO
product | [(3aR,4R,6R,6aS)-6-(6-Chloro-9H-purin-9-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]methanol | 210 mg, 53% | ClC1=C2N=CN(C2=NC=N1)[C@@H]1C[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CO | C14H17ClN4O3
